US07459448B2
7-Iodo-2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[b]azepine-4-carboxylic acid ethyl ester (iii-a)
To a solution of methyl 2-(4-ethoxy-4-oxobutanamido)-5-iodobenzoate (ii-a) (22.0 g, 54 mmol) in 125 mL of THF was added a 1 M solution of KOt-Bu in THF (119 mL, 119 mmol). The reaction was complete after 2.5 h at 22° C. H2O (250 mL) and 1N HCl (60 mL) were added to the solution, and the resulting precipitate was filtered, washed with 2×50 mL Et2O, and dried in vacuo to give iii-a (16.1 g, 83%) as a whitish/gray solid as a mixture of ethyl and methyl esters: MS m/z═374 (M+H) and 360 (M+H).

reactant | methyl 2-(4-ethoxy-4-oxobutanamido)-5-iodobenzoate | 54 mmol, 22.0 g | C(C)OC(CCC(=O)NC1=C(C(=O)OC)C=C(C=C1)I)=O | C14H16INO5
reactant | KOt-Bu | CC(C)(C)[O-].[K+]
reactant | H2O | 250 mL | O | H2O
reactant | HCl | 1N, 60 mL | Cl | ClH
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | THF | 119 mmol, 119 mL | C1CCOC1 | C4H8O
product | 7-Iodo-2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[b]azepine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1C(C2=C(NC(C1)=O)C=CC(=C2)I)=O | C13H12INO4
